US06147098
N-Cyano-N'-(3,5-dichlorophenyl)-N"-(1-methylethyl)guanidine
N-(3,5-Dichlorophenyl)-N'-cyano-O-phenylisourea (0.98 mmol, 300 mg) and isopropylamine (1 ml) was stirred in a sealed flask for 19 h at 75° C. After concentration the residue was dissolved in dichloromethane, washed with 1 N aqueous HCl (2×), water, dried (Na2SO4) and concentrated. The residue was crystallized from ethyl acetate/heptane 1:3 to give the title compound (115 mg, 43%) as white crystals. Mp 156-158.5° C.; 1H-NMR (CDCl3): δ 1.21 (d, 6H), 4.03 (m,1H), 4.70 (br d,1H), 7.16 (m, 2H), 7.29 (m,1H), 7.47 ppm (br,1H); MA calc for C11H12Cl2N4 : C, 48.73%; H, 4.46%; N, 20.66%. Found: C, 48.76%; H, 4.49%; N, 20.38%.

reactant | N-(3,5-Dichlorophenyl)-N'-cyano-O-phenylisourea | 0.98 mmol, 300 mg | ClC=1C=C(C=C(C1)Cl)NC(OC1=CC=CC=C1)=NC#N | C14H9Cl2N3O
reactant | isopropylamine | 1 ml | C(C)(C)N | C3H9N
product | N-Cyano-N'-(3,5-dichlorophenyl)-N"-(1-methylethyl)guanidine | 115 mg, 43% | C(#N)NC(=NC(C)C)NC1=CC(=CC(=C1)Cl)Cl | C11H12Cl2N4
